US08008279B2
(1R,2R)-N-(1-cyanocyclopropyl)-2-(6-(2-(dimethylamino)ethoxy)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-2-carbonyl)cyclohexanecarboxamide
(3aR,7aR)-hexahydroisobenzofuran-1,3-dione (125 mg, 0.81 mmol) was added to N,N-dimethyl-2-(2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-6-yloxy)ethanamine (210 mg, 0.81 mmol) in DMF (10 ml) at room temperature under air. The resulting solution was stirred at room temperature for 2 hours. N,N-Diisopropylethylamine (0.535 ml, 3.24 mmol), HATU (462 mg, 1.21 mmol) and 1-amino-1-cyclopropanecarbonitrile HCL (144 mg, 1.21 mmol) were then added to the mixture. The resulting solution was stirred at room temperature for 20 hours. The crude product was purified by preparative HPLC (0.1% NH3, CH3CN/H2O gradient) as eluents to afford as a brown gum (89 mg, 23%).

reactant | (3aR,7aR)-hexahydroisobenzofuran-1,3-dione | 0.81 mmol, 125 mg | C1(OC([C@@H]2CCCC[C@@H]12)=O)=O | C8H10O3
reactant | N,N-dimethyl-2-(2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-6-yloxy)ethanamine | 0.81 mmol, 210 mg | CN(CCOC1=CC=CC=2C3=C(NC12)CCNC3)C | C15H21N3O
reactant | N,N-Diisopropylethylamine | 3.24 mmol, 0.535 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 1.21 mmol, 462 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-amino-1-cyclopropanecarbonitrile HCL | 1.21 mmol, 144 mg | Cl.NC1(CC1)C#N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (1R,2R)-N-(1-cyanocyclopropyl)-2-(6-(2-(dimethylamino)ethoxy)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-2-carbonyl)cyclohexanecarboxamide | 89 mg, 23% | C(#N)C1(CC1)NC(=O)[C@H]1[C@@H](CCCC1)C(=O)N1CC2=C(NC=3C(=CC=CC23)OCCN(C)C)CC1 | C27H35N5O3
